US07714126B2
With a procedure similar to example 1 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (2-morpholin-4-yl-pyrimidin-5-yl)-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and 2-morpholin-4-yl-pyrimidin-5-ylamine. LCMS calcd for C19H16F3N5O3 (m/e) 419, obsd 420 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 2-morpholin-4-yl-pyrimidin-5-ylamine | N1(CCOCC1)C1=NC=C(C=N1)N | C8H12N4O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (2-morpholin-4-yl-pyrimidin-5-yl)-amide | N1(CCOCC1)C1=NC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C19H16F3N5O3
